US06982348B2
2) ethyl 4,4-dimethyl-5-phenylpentanoate
A solution of ethyl (E)-4,4-dimethyl-5-phenyl-2-pentenoate (55.97 g, 240.9 mmol) in ethanol (150 ml) was hydrogenated using 10% palladium/carbon (containing water by 50%) (5 g) as a catalyst at room temperature overnight under normal pressure. The recovered catalyst of the reaction solution was filtered off and the catalyst was washed with ethanol. The recovered solvent of the filtrate was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1-9/1) to give the objective substance.

reactant | ethyl (E)-4,4-dimethyl-5-phenyl-2-pentenoate | 240.9 mmol, 55.97 g | CC(/C=C/C(=O)OCC)(CC1=CC=CC=C1)C | C15H20O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 5 g | [Pd] | Pd
product | ethyl 4,4-dimethyl-5-phenylpentanoate | CC(CCC(=O)OCC)(CC1=CC=CC=C1)C | C15H22O2
